US04092321
A solution of 2-bromo-5-phenylsulfinylpyridine (2.82 g., 0.01 mole) and 0.50 g. of sodium methoxide is heated in 50 ml. of refluxing methanol for 5 hours. The reaction mixture is evaporated in vacuo, and the residue is diluted with water. The solids are collected by filtration, washed with water and dried to yield 2-methoxy-5-phenylsulfinylpyridine.

reactant | 2-bromo-5-phenylsulfinylpyridine | 0.01 mole, 2.82 g | BrC1=NC=C(C=C1)S(=O)C1=CC=CC=C1 | C11H8BrNOS
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-methoxy-5-phenylsulfinylpyridine | COC1=NC=C(C=C1)S(=O)C1=CC=CC=C1 | C12H11NO2S
